US07037922B1
A solution of 10 g of 4-trimethylacetamido pyridine in 150 mL of dry tetrahydrofuran is cooled to −78° C. and 88 mL of 1.6M n-butyllithium in hexane is added in a dropwise fashion. The mixture is then stirred at 0° C. for 3 hours, cooled again to −78° C. and 21.3 g of diethyl oxalate dissolved in 190 mL of tetrahydrofuran is added in a dropwise fashion, the reaction mixture was then gradually allowed to come to room temperature. The reaction mixture is diluted with water and the product is extracted with ether. After drying over magnesium sulfate the solvent is removed in vacuo. The residue is chromatagraphed on silica gel with hexane/ether 2:1 as the eluent to afford ethyl 4-trimethylacetamido-3-pyridylpyruvate as an orange oil.

reactant | 4-trimethylacetamido pyridine | 10 g | CC(C(=O)NC1=CC=NC=C1)(C)C | C10H14N2O
reactant | n-butyllithium | 1.6M, 88 mL | C(CCC)[Li]
reactant | diethyl oxalate | 21.3 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 190 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 4-trimethylacetamido-3-pyridylpyruvate | CC(C(=O)NC1=C(C=NC=C1)CC(C(=O)OCC)=O)(C)C | C15H20N2O4
